US05840911
1-[4-(Amidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-imidazole dihydrochloride
0.3 g of Raney nickel is added to a solution of 0.8 g (2.33 mmol) of 1-[4-(N-hydroxy-amidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-imidazole dihydrochloride in 60 ml of methanol/water (1:1), and hydrogenation is carried out at room temperature and under normal pressure until the absorption of hydrogen has ceased. The filtrate is adjusted to pH 3 with a small amount of 3N methanolic hydrochloric acid and is concentrated by evaporation in vacuo. Recrystallization of the residue from methanol/water yields the title compound, m.p. >260° C., 1H-NMR (D2O): δ=8.15 (d, 1H); 7.82 (d, 1H); 7.58 (t, 1H); 7.17 (d, 1H); 6.90 (d, 1H); 3.29-3.35 (m, 2H); 3.12-3.18 (m, 2H).

reactant | 1-[4-(N-hydroxy-amidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-imidazole dihydrochloride | 2.33 mmol, 0.8 g | Cl.Cl.ONC(=N)C1=C2CCC(C2=CC=C1)=NN1C(=NC=C1)N
catalyst | Raney nickel | 0.3 g | [Ni] | Ni
solvent | methanol water | 60 ml | CO.O
product | 1-[4-(Amidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-imidazole dihydrochloride | Cl.Cl.C(N)(=N)C1=C2CCC(C2=CC=C1)=NN1C(=NC=C1)N | InChI=1S/C13H14N6.2ClH/c14-12(15)10-3-1-2-9-8(10)4-5-11(9)18-19-7-6-17-13(19)16;;/h1-3,6-7H,4-5H2,(H3,14,15)(H2,16,17);2*1H
